US04645844
Preparation of 3(m-diethylaminophenoxy)propyl Trimethoxysilane
Using the general procedure described in the preceding Example 1, a reactor was charged with 90.75 g (0.55 mole) m-diethylaminophenol, 112 cc dimethylsulfoxide, 120 cc toluene and 43.28 g of a 50% aqueous sodium hydroxide solution. All of the water present in the reactor was removed by azeotropic distillation. The reaction mixture was allowed to cool to 80° C., at which time 109 g (0.55 mole) of chloropropyl trimethoxysilane were gradually added over a period of 2 hours. The temperature of the reaction mixture increased to 88° C. during the addition. Following completion of the addition, external heating was applied to maintain the temperature of the reaction mixture at 80° C. for 16 hours. The reaction mixture was then allowed to cool and was filtered. The liquid phase was recovered and evaporated under a pressure of 5 mm of mercury to remove the toluene and dimethylsulfoxide. The pressure inside the reactor was reduced to 2 mm and the product, 3(m-diethylaminophenoxy)propyl trimethoxysilane, distilled at a temperature of 185°-187° C. Analysis by vapor phase chromatography demonstrated that the product was 97% pure.

reactant | m-diethylaminophenol | 0.55 mole, 90.75 g | C(C)N(C=1C=C(C=CC1)O)CC | C10H15NO
reactant | dimethylsulfoxide | 112 cc | CS(=O)C | C2H6OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | chloropropyl trimethoxysilane | 0.55 mole, 109 g | ClCCC[Si](OC)(OC)OC | C6H15ClO3Si
solvent | toluene | 120 cc | C1(=CC=CC=C1)C | C7H8
product | 3(m-diethylaminophenoxy)propyl Trimethoxysilane | C(C)N(C=1C=C(OCCC[Si](OC)(OC)OC)C=CC1)CC | C16H29NO4Si
